US05849928
4-Acetamidophenylsulphur pentafluoride (27.0 g) was added during 5 minutes to a stirred mixture of concentrated nitric acid and concentrated sulphuric acid (1 part:2 parts by volume) at 0°-5° C. After 5 minutes acetic acid (1 part) was added and stirring continued at 5° C. for 1.5 hours. The mixture was added to ice/water, extracted (ethyl acetate) and the extract washed (sodium carbonate solution), dried (magnesium sulphate) and evaporated. The residue was triturated with ether to give 4-acetamido-3-nitrophenylsulphur pentafluoride (30.0 g), m.p.135°-138° C.

reactant | 4-Acetamidophenylsulphur pentafluoride | 27.0 g | C(C)(=O)NC1=CC=C(C=C1)S(F)(F)(F)(F)F | C8H8F5NOS
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-acetamido-3-nitrophenylsulphur pentafluoride | 30.0 g | C(C)(=O)NC1=C(C=C(C=C1)S(F)(F)(F)(F)F)[N+](=O)[O-] | C8H7F5N2O3S
